US06274619B1
To a mixture of 1.66 N n-butyl lithium (nBuLi) (328 ml in n-hexane solution) and Et2O (100 ml) was added a mixture of 4-n-butylidene-4,5,6,7-tetrahydrobenzo[b]furan (9.60 g) and Et2O (50 ml) dropwise over 5 minutes while maintaining −30˜−20° C. by dry ice—carbon tetrachloride (CCl4) cooling. The reaction mixture was stirred at r.t. for 1 hour, and was bubbled by carbon dioxide (CO2) gas for 1 hour. The whole mixture was stirred at r.t. overnight and poured into a mixture of water and Et2O. The separated aqueous layer was adjusted to pH 1.4 with 10% HCl, and extracted by AcOEt. The orgaic layer was washed with brine, dried over MgSO4, and evaporated to give 4-n-butylidene-4,5,6,7-tetrahydrobenzo[b]furan-2-carboxylic acid (3.91 g) as a reddish oil, which was used in the next reaction without further purification.

reactant | n-butyl lithium | 1.66 N, 328 ml | C(CCC)[Li]
reactant | 4-n-butylidene-4,5,6,7-tetrahydrobenzo[b]furan | 9.60 g | C(CCC)=C1CCCC=2OC=CC21 | C12H16O
reactant | dry ice carbon tetrachloride | C(=O)=O.C(Cl)(Cl)(Cl)Cl
solvent | Et2O | 50 ml | CCOCC | C4H10O
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | 4-n-butylidene-4,5,6,7-tetrahydrobenzo[b]furan-2-carboxylic acid | 3.91 g | C(CCC)=C1CCCC=2OC(=CC21)C(=O)O | C13H16O3
